Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Sulfa (Sulfonamide Antibiotics)
 
Attending: ___.
 
Chief Complaint:
dyspnea, newly diagnosed PE
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ is a ___ y/o male with no significant PMH who 
presented to his PCP earlier today with one week of shortness of 
breath. The patient first noticed it a week ago when he walked 
up 2 flights of stairs and became short of breath. This was 
followed by inability to run in the last 2 days due to dyspnea. 
Pt noticed that he would become dyspneic after running 2 blocks 
whereas at baseline can run 4 miles. Patient is very active at 
baseline and regularly runs 3x/week. No recent surgery or 
travel. He has never had a PE or DVT but did note that he 
developed a palpable cord in his R ankle 6mo ago spontaneously, 
causing pain and swelling for some time, now resolved.
Relevant ROS: No fevers, no calf pain. No smoking, and no fam hx 
of clots, no hx of autoimmune disease or known malignancy. 
 
Patient went to ___'s office today. He was found to have 
ambulatory O2 sat drop from 99% to 94% with walking for 5min, 
EKG unchanged compared to ___ study. CXR showed mildly inflated 
lungs but otherwise clear.
Peak flows at ___'s office: ___. D-dimer checked- 3039; 
and 
CTA done which showed extensive bilateral PE including large 
thrombus in the RLL third order branch.
Pt brought to our ED via taxi after CT revealed PEs.
  
In the ED, initial vs were: 98.5 58 117/80 16 97%. 
Labs were remarkable for lactate of 1.5, INR 0.9, Hct 45.2, Cr 
1.1. BNP32, tnt <0.01.
EKG: sinus @ 45, LAFB, no ste
U/A clean
Patient was given lovenox ___ and coumadin 5mg.
 
Vitals on Transfer: 98.5 56 116/83 16 98%.
  
On the floor, patient with chest tightness but no pleuritic 
chest pain, and not dyspneic at rest. Notices that he gets more 
tachypneic when he walks across the room. Admits to fatigue and 
has trouble concentrating.
  

 
Past Medical History:
Colonic polyps ___, repeat colonoscopy in ___ did not show 
polyps
Eczema

 
Social History:
___
Family History:
no family history of clots that pt knows of, father died of a 
"vasculitis" and cardiac arrest at age of ___. Also father with 
late-onset asthma. Father's father (paternal GF) with vasculitis 
and late-onset asthma as well.

 
Physical Exam:
On Admission: 
Vitals: T: 97.9  BP: 114/72 P: 62 R: 18 O2:100RA  
General: Alert, oriented, no acute distress  
HEENT: Sclera anicteric, MMM, oropharynx clear  
Neck: supple, JVP not elevated, no LAD  
Lungs: Clear to auscultation bilaterally, no wheezes, rales, 
ronchi  
CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, 
gallops  
Abdomen: soft, non-tender, non-distended, bowel sounds present, 
no rebound tenderness or guarding, no organomegaly  
Ext: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema; R anterior ankle with palpable cord, no edema, erythema 
or appreciable warmth. 
Skin: no rash 
Neuro: A&Ox3, CNsII-XII grossly intact; ___ strength throughout

On Discharge:
Vitals: T: 97.6  BP: 102/61 P: 48 R: 18 O2: 96RA  
General: Alert, oriented, no acute distress, pleasant  
HEENT: Sclera anicteric, MMM, oropharynx clear   
Lungs: Clear to auscultation bilaterally, no wheezes, rales, 
ronchi  
CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, 
gallops  
Abdomen: soft, non-tender, non-distended, bowel sounds present, 
no rebound tenderness or guarding, no organomegaly  
Ext: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema; R anterior ankle with palpable cord, no edema, erythema 
or appreciable warmth. Calves symmetric
Skin: no rash 
Neuro: A&Ox3, CNsII-XII grossly intact; ___ strength throughout

 
Pertinent Results:
On Admission:
___ 06:10PM BLOOD WBC-7.8 RBC-5.13 Hgb-15.6 Hct-45.2 MCV-88 
MCH-30.5 MCHC-34.6 RDW-12.7 Plt ___
___ 06:10PM BLOOD Neuts-74* Bands-0 ___ Monos-5 Eos-1 
Baso-0 ___ Myelos-0 NRBC-2*
___ 06:10PM BLOOD ___ PTT-32.1 ___
___ 06:10PM BLOOD Glucose-88 UreaN-14 Creat-1.1 Na-138 
K-5.8* Cl-100 HCO3-28 AnGap-16
___ 06:10PM BLOOD proBNP-32
___ 06:10PM BLOOD cTropnT-<0.01
___ 06:10PM BLOOD Calcium-11.3* Phos-2.7 Mg-2.3
___ 06:17PM BLOOD Lactate-1.5

Studies:
___ LENIs
There is compressibility, augmentation and flow in the bilateral 
common 
femoral, proximal femoral, mid femoral, distal femoral, and 
popliteal veins. Slow flow is noted in the left popliteal vein.  
Normal color flow and compressibility is demonstrated in the 
bilateral posterior tibial and peroneal veins.  There is normal 
respiratory variation in the common femoral veins bilaterally.   

  
IMPRESSION: No evidence of deep venous thrombosis in the 
bilateral lower extremities.   

On discharge:
___ 07:50AM BLOOD WBC-5.5 RBC-4.95 Hgb-14.9 Hct-43.9 MCV-89 
MCH-30.1 MCHC-34.0 RDW-12.6 Plt ___
___ 07:50AM BLOOD Neuts-67.6 ___ Monos-4.5 Eos-5.2* 
Baso-1.3
___ 07:50AM BLOOD ___ PTT-35.7 ___
___ 07:50AM BLOOD Glucose-124* UreaN-13 Creat-1.0 Na-139 
K-4.2 Cl-102 HCO3-29 AnGap-12
___ 07:50AM BLOOD ___
___ 07:50AM BLOOD ANCA-PND
 
Brief Hospital Course:
___ y/o male who presented to his PCP earlier today with one week 
of shortness of breath found to have bilateral PEs.

#  Pulmonary embolism: Patient with bilateral PEs, first 
occurrence and appeared to be unprovoked (no travel h/o, recent 
surgery, h/o malignancy, up-to-date with colon CA screening). 
Also no family history of hypercoagulable conditions although 
has paternal history of vasculitis with late onset asthma and 
thus sent off ___ and ANCA(pending at discharge). No DVT 
symptoms; only with superficial vein thrombosis on R ankle. 
LENIs were negative. Pt hemodynamically stable and not hypoxic. 
Troponin negative with low BNP which were reassuring, making 
right heart strain not likely. No contraindications to 
anticoagulation. Pt with normal renal function and not morbidly 
obese and thus able to give Lovenox. He was discharged with 
Lovenox SC 100mcg (1mcg/kg) BID and coumadin 5mg daily, aiming 
for INR goal of ___. Patient's PCP was contacted to have patient 
referred to ___ clinic. Patient will need at least 3 
months of warfarin for unprovoked episode but advised patient to 
discuss with PCP whether he should continue ongoing 
anticoagulation vs aspirin after three months. Other 
transitional issues: hypercoagulable workup in process with PCP- 
___ ___ sent and pending; we recommended checking HIV 
status as outpatient.

#Hypercalcemia: Patient with elevated calcium levels to ___, 
asymptomatic. Besides hyperparathyroidism, malignancy and 
autoimmune diseases are worrisome in healthy active pt with 
pulmonary embolisms.

Transitional issues:
-PCP to ___ V Leiden which was sent at office and 
pending
-Inpatient team recommended checking HIV status as outpatient
-Patient is to ___ with PCP on ___ to have INR 
check 
-Patient has referral to ___ clinic; patient given 
education sheets on warfarin and dietary restrictions
-Patient will continue Lovenox for at least 5 days and coumadin 
will continue for at least 3 months
-___ and ANCA will be followed up by inpatient team in work-up 
of ___
-Recommend ___ to be checked as outpatient in initiating workup 
of hypercalcemia.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Fluocinonide 0.05% Cream 1 Appl TP BID:PRN itching 

 
Discharge Medications:
1. Enoxaparin Sodium 100 mg SC BID 
RX *enoxaparin 100 mg/mL 100 mg(s) SC twice a day Disp #*14 
Syringe Refills:*0
2. Warfarin 5 mg PO DAILY16 
RX *warfarin [Coumadin] 5 mg 1 tablet(s) by mouth daily Disp #*7 
Tablet Refills:*0
3. Fluocinonide 0.05% Cream 1 Appl TP BID:PRN itching 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Pulmonary embolism, bilateral
Hypercalcemia

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,
You were admitted to the hospital for management of the clots in 
your lungs, a condition called pulmonary embolism. You had an 
ultrasound of your legs which did not show clots in your deeper 
veins. We are giving you two medications to thin your blood to 
prevent other clots from forming- Lovenox/enoxaparin and 
warfarin/coumadin. You are to ___ with your primary care 
doctor next week ___ to have your blood tests to check your 
"INR." Your doctor ___ also update you on the lab test- ___ 
five Leiden which was sent off on ___ at her office. We sent 
off two lab tests that test you for a certain type of 
"vasculitis." The results were pending when you were discharged. 
We will notify your primary care doctor regarding the results. 
Following this appointment, you will be following up with the 
___ clinic to monitor your INR levels. You will likely be 
taking warfarin for at least 3 months. After that, you should 
have a discussion with your primary care doctor whether you 
should stop warfarin completely or stay on it since you are at 
high risk of having another clot in the future. You asked about 
dietary restrictions while you are on coumadin- we recommend 
that you eat a normal diet but Avoid LARGE amounts of alfalfa, 
asparagus, broccoli, ___ sprouts, cabbage, cauliflower, 
green teas, kale, lettuce, spinach, turnip greens, and 
watercress.
Also speak to your doctors about working up your high calcium 
levels. 
 
Followup Instructions:
___